US08242125B2
47-B. (±)-4-[Benzyl-(1-ethoxycarbonyl-ethyl)-amino]-butyric acid methyl ester
2-Benzylamino-propionic acid ethyl ester (1.4 g, 6.7 mmol), methyl oxo-butanoate (1.7 g, 13.5 mmol), TEA (1.9 mL, 13.5 mmol) and NaBH(Oac)3 (2.9 g, 13.5 mmol) are taken up in 1,2-DCE (35 mL) and stirred at rt for 4 h. The reaction is partitioned between DCM and saturated aqueous NaHCO3. The organic layer is removed, dried over anhydrous Na2SO4, and concentrated in vacuo. The crude residue is used without further purification. MS (ESI) m/z 308.3 (M+1).

reactant | 2-Benzylamino-propionic acid ethyl ester | 6.7 mmol, 1.4 g | C(C)OC(C(C)NCC1=CC=CC=C1)=O | C12H17NO2
reactant | methyl oxo-butanoate | 13.5 mmol, 1.7 g | O=C(C(=O)OC)CC | C5H8O3
solvent | 1,2-DCE | 35 mL | ClCCCl | C2H4Cl2
product | (±)-4-[Benzyl-(1-ethoxycarbonyl-ethyl)-amino]-butyric acid methyl ester | COC(CCCN(C(C)C(=O)OCC)CC1=CC=CC=C1)=O | C17H25NO4
